US07304064B2
To a solution of diethylaminosulfur trifluoride (1.5 ml, 12.16 mmol) in dichloromethane (10 ml) at −72° C. was added 1,4-dibenzyl-2-(hydroxymethyl)piperazine (3 g, 10.1 mmol) in dichloromethane (20 ml) over 10 minutes. The mixture was stirred for 16 h whilst warming to room temperature and treated with water (20 ml). The aqueous phase was basified to pH 9 using 4 M sodium hydroxide and the organic phase separated. The aqueous phase was extracted with dichloromethane (2×30 ml) and the combined organic layers dried with sodium sulfate and evaporated. The residue was purified by flash chromatography eluting with 20% (v/v) ethyl acetate in hexane to afford 1,4-dibenzyl-2-(fluoromethyl)piperazine (0.94 g) as a colourless oil.

reactant | diethylaminosulfur trifluoride | 12.16 mmol, 1.5 ml | C(C)N(CC)S(F)(F)F | C4H10F3NS
reactant | 1,4-dibenzyl-2-(hydroxymethyl)piperazine | 10.1 mmol, 3 g | C(C1=CC=CC=C1)N1C(CN(CC1)CC1=CC=CC=C1)CO | C19H24N2O
reactant | water | 20 ml | O | H2O
reactant | sodium hydroxide | 4 M | [OH-].[Na+]
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | 1,4-dibenzyl-2-(fluoromethyl)piperazine | 0.94 g | C(C1=CC=CC=C1)N1C(CN(CC1)CC1=CC=CC=C1)CF | C19H23FN2
